US09062059B2
ethyl 3-(5-methoxypyridin-2-yl)prop-2-enoate (D-1)
To a 25-mL microwave vial was added 2-bromo-5-methoxy pyridine (1.88 g, 10 mmol), ethyl acrylate (5.44 ml, 50.0 mmol), Pd(OAc)2 (0.225 g, 1.000 mmol), K2CO3 (4.15 g, 30.0 mmol), and t-butylammonium chloride hydrate (2.96 g, 10.00 mmol). The slurry was heated in the microwave at 160° C. for 1 h. Upon cooling to room temperature, the mixture was diluted with EtOAc (100 mL) and washed with sat. aq. NaHCO3 (100 mL). The aqueous layer was extracted with additional EtOAc (2×50 mL). The combined organic layers were then washed with water and brine, dried over Na2SO4, filtered, and concentrated in vacuo. The resulting residue was purified by gradient elution on silica gel (0 to 50% EtOAc in hexanes) to afford the title compound (1.5 g, 72%). 1H NMR (500 MHz, CDCl3): δ 8.35 (d, J=3.0 Hz, 1H), 7.65 (d, J=15.7 Hz, 1H), 7.38 (d, J=8.6 Hz, 1H), 7.18 (dd, J=8.6, 3.0 Hz, 1H), 6.76 (d, J=15.7 Hz, 1H), 4.26 (q, J=7.1 Hz, 2H), 3.89 (s, 3H), 1.33 (t, J=7.1 Hz, 3H) ppm; LRMS m/z (M+H) 208.0 found, 208.2 required.

reactant | 2-bromo-5-methoxy pyridine | 10 mmol, 1.88 g | BrC1=NC=C(C=C1)OC | C6H6BrNO
reactant | ethyl acrylate | 50.0 mmol, 5.44 ml | C(C=C)(=O)OCC | C5H8O2
reactant | K2CO3 | 30.0 mmol, 4.15 g | C(=O)([O-])[O-].[K+].[K+]
reactant | t-butylammonium chloride hydrate | 10.00 mmol, 2.96 g | O.[Cl-].C(C)(C)(C)[NH3+]
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(OAc)2 | 1.000 mmol, 0.225 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | ethyl 3-(5-methoxypyridin-2-yl)prop-2-enoate | 1.5 g, 72% | COC=1C=CC(=NC1)C=CC(=O)OCC | C11H13NO3
